### PR TITLE
[Merged by Bors] - chore (RingTheory.Jacobson): `refine'` => `refine` or `exact`

### PR DESCRIPTION
**Pull request by mattrobball**
`refine'`s have an issue with metavariables being cached in synthesis and are at this point legacy. We replace them with `refine`'s and an `exact`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Jacobson.lean [hunk 1]
```diff
@@ -453,8 +453,7 @@ theorem isJacobson_polynomial_of_isJacobson (hR : IsJacobson R) : IsJacobson R[X
 #align ideal.polynomial.is_jacobson_polynomial_of_is_jacobson Ideal.Polynomial.isJacobson_polynomial_of_isJacobson
 
 theorem isJacobson_polynomial_iff_isJacobson : IsJacobson R[X] ↔ IsJacobson R := by
-  refine' ⟨_, isJacobson_polynomial_of_isJacobson⟩
-  intro H
+  refine ⟨fun H => ?_, isJacobson_polynomial_of_isJacobson⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/RingTheory/Jacobson.lean:456]:
```suggestion
  refine ⟨fun H ↦ ?_, isJacobson_polynomial_of_isJacobson⟩
```
Isn't this the preferred style in Mathlib?

**Comment by MichaelStollBayreuth** [comment]
!bench

File: Mathlib/RingTheory/Jacobson.lean (hunk 1 above)
Comment (mattrobball) [reply Mathlib/RingTheory/Jacobson.lean]: It's not my favorite thing. I just reverted it. It was kinda out of scope anyway.

**Comment by MichaelStollBayreuth** [comment]
maintainer merge

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
